US07419984B2
6-(5-Chloro-2-methyl-phenyl)-N*4*-(4-methoxy-phenyl)-pyrimidine-2,4-diamine
Following the method described in Example 26, 4-chloro-6-(5-chloro-2-methyl-phenyl)-pyrimidin-2-yl-amine and 4-methoxy-phenylamine provided the title compound (52% yield). 1H NMR (DMSO-d6) δ 2.34 (s, 3H, CH3), 3.74 (s, 3H, CH3), 6.01 (s, 1H, Ar), 6.28 (s, 2H, NH2), 6.87-6.89 (m, 2H, Ar), 7.30 (d, 1H, J=8.2 Hz, Ar), 7.34-7.39 (m, 2H, Ar), 7.60 (d, 2H, J=8.9 Hz, Ar), 9.01 (s, 1H, NH).

reactant | 4-chloro-6-(5-chloro-2-methyl-phenyl)-pyrimidin-2-yl-amine | ClC1=NC(=NC(=C1)C1=C(C=CC(=C1)Cl)C)N | C11H9Cl2N3
reactant | 4-methoxy-phenylamine | COC1=CC=C(C=C1)N | C7H9NO
product | 6-(5-Chloro-2-methyl-phenyl)-N*4*-(4-methoxy-phenyl)-pyrimidine-2,4-diamine | 52% yield | ClC=1C=CC(=C(C1)C1=CC(=NC(=N1)N)NC1=CC=C(C=C1)OC)C | C18H17ClN4O
